US06573289B1
Production of 1-[5,7-Dimethyl-6-methoxynaphthalen-2-yl]-1-(1H-imidazol-4-yl)-2-methyl-1-propanol
Production of 3,5-Dimethyl-4-methoxybenzaldehyde 5-Bromo-1,3-dimethyl-2-methoxybenzene (70.10 g) was dissolved in THF (700 ml). The solution was cooled to −78° C. To the reaction mixture was added dropwise n-butyl lithium in hexane (1.62 M, 250 ml), and the mixture was stirred for 15 min. To the mixture was added DMF (50 ml), and the temperature of the mixture was elevated to 0° C. To the reaction mixture was added an aqueous solution of ammonium chloride and ethyl acetate, and the mixture was extracted with ethyl acetate. The organic layer was dried and concentrated. To the residue was added ethyl acetate. The organic layer was washed with water and saturated solution of sodium chloride, dried and concentrated to give the titled compound (52.80 g) as an oil.

reactant | 3,5-Dimethyl-4-methoxybenzaldehyde 5-Bromo-1,3-dimethyl-2-methoxybenzene | 70.10 g | BrC=1C=C(C(=C(C1)C)OC)C.CC=1C=C(C=O)C=C(C1OC)C
reactant | n-butyl lithium | C(CCC)[Li]
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 700 ml | C1CCOC1 | C4H8O
solvent | hexane | 1.62 M, 250 ml | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[5,7-Dimethyl-6-methoxynaphthalen-2-yl]-1-(1H-imidazol-4-yl)-2-methyl-1-propanol | 52.80 g | CC1=C2C=CC(=CC2=CC(=C1OC)C)C(C(C)C)(O)C=1N=CNC1 | C20H24N2O2
